US05998451
trans-6-(6-Chloro-2-pyridyl)methoxy-3-(3-pyridyl)methyl-4-chromanol
By the method of Example 5, 500 mg (1.95 mmol) of trans-3-(3-pyridyl)methyl-4,6-chromandiol and 442 mg (2.14 mmol) of 2-chloro-6-(bromomethyl)pyridine were converted to present title product, purified by flash chromatography on a silica gel column using isopropyl alcohol:ethyl acetate:CH2Cl2, 1:2:17 as eluant, to yield 0.11 g (14%) of present title compound as a glass.

reactant | trans-3-(3-pyridyl)methyl-4,6-chromandiol | 1.95 mmol, 500 mg | N1=CC(=CC=C1)C[C@@H]1COC2=CC=C(C=C2[C@H]1O)O | C15H15NO3
reactant | 2-chloro-6-(bromomethyl)pyridine | 2.14 mmol, 442 mg | ClC1=NC(=CC=C1)CBr | C6H5BrClN
product | trans-6-(6-Chloro-2-pyridyl)methoxy-3-(3-pyridyl)methyl-4-chromanol | ClC1=CC=CC(=N1)COC=1C=C2[C@H]([C@@H](COC2=CC1)CC=1C=NC=CC1)O | C21H19ClN2O3
